** sch_path: /home/noritsuna/LNA/202504/submit/xschem/lna_tb_xyce_rf_rfmos.sch
**.subckt lna_tb_xyce_rf_rfmos
VDD VDD GND 1.5
vin vin GND dc 1.5 ac 1
R2 net3 net1 rppd w=0.5e-6 l=3.6e-6 m=1 b=0
R1 net1 VDD rppd w=0.5e-6 l=1.8e-6 m=1 b=0
R3 net2 vin rsil w=0.5e-6 l=2.4e-6 m=1 b=0
L1 VDD vout 26.83n
L2 net6 GND 2.36n
L3 net3 net5 39n
C1 net2 net3 GND cap_rfcmim w=60.0e-6 l=55.0e-6 wfeed=5.0e-6
C2 net2 net3 GND cap_rfcmim w=60.0e-6 l=55.0e-6 wfeed=5.0e-6
XM3 net1 net1 GND GND sg13_lv_nmos w=10.0u l=0.36u ng=5 m=1 rfmode=1
XM2 vout VDD net4 GND sg13_lv_nmos w=200.0u l=0.36u ng=200 m=1 rfmode=1
XM1 net4 net5 net6 GND sg13_lv_nmos w=200.0u l=0.36u ng=200 m=1 rfmode=1
**** begin user architecture code


*.control
.OPTIONS OUTPUT PRINTHEADER=false PRINTFOOTER=false
.preprocess replaceground true
.option temp=27

.ac dec 1001 800meg 3000meg
.print ac format=raw file=lna_tb_xyce_rf_rfmos.raw V(Vout)



.lib /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/cornerHBT.lib hbt_typ
.lib /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/cornerMOSlv.lib mos_tt
.lib /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/resistors.lib res_typ
.lib /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/cornerCAP.lib cap_typ
.include /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/sg13g2_bondpad.lib
.include /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/sg13g2_esd.lib

**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
