** sch_path: /home/noritsuna/LNA/202504/submit/xschem/lna_tb_xyce_rf_npn.sch
**.subckt lna_tb_xyce_rf_npn
VDD VDD GND 1.5
vin vin GND dc 1.5 ac 1
R2 net5 net1 rppd w=0.5e-6 l=3.6e-6 m=1 b=0
R1 net1 VDD rppd w=0.5e-6 l=1.8e-6 m=1 b=0
R3 net4 vin rsil w=0.5e-6 l=2.4e-6 m=1 b=0
L1 VDD vout 26.83n
L2 net6 GND 2.36n
L3 net5 net3 39n
C1 net4 net5 GND cap_rfcmim w=60.0e-6 l=55.0e-6 wfeed=5.0e-6
C2 net4 net5 GND cap_rfcmim w=60.0e-6 l=55.0e-6 wfeed=5.0e-6
XM3 net1 net1 GND GND sg13_lv_nmos w=10.0u l=0.36u ng=5 m=1 rfmode=1
Q1 vout VDD net2 npn13G2
Q2 net2 net3 net6 npn13G2
Q3 vout VDD net2 npn13G2
Q4 net2 net3 net6 npn13G2
Q5 vout VDD net2 npn13G2
Q6 net2 net3 net6 npn13G2
Q7 vout VDD net2 npn13G2
Q8 net2 net3 net6 npn13G2
Q9 vout VDD net2 npn13G2
Q10 net2 net3 net6 npn13G2
Q11 vout VDD net2 npn13G2
Q12 net2 net3 net6 npn13G2
**** begin user architecture code

.lib /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/cornerHBT.lib hbt_typ
.lib /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/cornerMOSlv.lib mos_tt
.lib /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/resistors.lib res_typ
.lib /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/cornerCAP.lib cap_typ
.include /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/sg13g2_bondpad.lib
.include /home/noritsuna/pdk/IHP-Open-PDK/ihp-sg13g2/libs.tech/xyce/models/sg13g2_esd.lib



*.control
.OPTIONS OUTPUT PRINTHEADER=false PRINTFOOTER=false
.preprocess replaceground true
.option temp=27

.ac dec 1001 800meg 3000meg
.print ac format=raw file=lna_tb_xyce_rf_npn.raw V(Vout)


**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
